US08624034B2
Step A) 4-Methyl-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2H-1,2,3-triazole
Pd(dppf)Cl2 (592 mg, 0.718 mmol) was added to a solution of potassium acetate (705 mg, 7.18 mmol), 2-(4-bromophenyl)-4-methyl-2H-1,2,3-triazole (600 mg, 2.52 mmol), and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (729 mg, 2.87 mmol) in 1,4-dioxane (20 mL). The reaction was heated to 80° C. and stirred at this temperature for 16 h. The reaction was filtered through celite, and the filter pad was washed with EtOAc (150 mL). The combined filtrates were concentrated under reduced pressure, and the crude material was purified via flash chromatography using EtOAc in n-heptane (10-60%) to afford the title compound as a light tan solid (720 mg, 98%). MS (LCMS) m/z 286.2 (M+1). 1H NMR (400 MHz, METHANOL-d4) δ ppm 1.32 (s, 12H) 2.36 (s, 3H) 7.66 (s, 1H) 7.77-7.84 (m, 2H) 7.92-8.00 (m, 2H).

reactant | potassium acetate | 7.18 mmol, 705 mg | C(C)(=O)[O-].[K+]
reactant | 2-(4-bromophenyl)-4-methyl-2H-1,2,3-triazole | 2.52 mmol, 600 mg | BrC1=CC=C(C=C1)N1N=CC(=N1)C | C9H8BrN3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 2.87 mmol, 729 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.718 mmol, 592 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-Methyl-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2H-1,2,3-triazole | 720 mg, 98% | CC1=NN(N=C1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C15H20BN3O2
